US08809304B2
(19-1) Synthesis of [1,1-bis(hydroxymethyl)propyl]carbamic Acid t-butyl Ester (Compound 19-1)
To a solution of 2-amino-2-ethyl-1,3-propanediol (22.0 g) in methanol (500 ml) and N,N-diisopropylethylamine (64.3 ml) was added di-t-butyl dicarbonate (60.5 g) under ice-cooling, and the mixture was stirred for 40 min under ice-cooling and further at room temperature for 16 hr. 1M aqueous sodium hydroxide solution (184 ml) was added to the reaction mixture under ice-cooling and the mixture was stirred for 40 min. Methanol was removed under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (41.0 g) as a colorless oil.

reactant | 2-amino-2-ethyl-1,3-propanediol | 22.0 g | NC(CO)(CO)CC | C5H13NO2
reactant | di-t-butyl dicarbonate | 60.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1M, 184 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | N,N-diisopropylethylamine | 64.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | [1,1-bis(hydroxymethyl)propyl]carbamic Acid t-butyl Ester | 41.0 g | C(C)(C)(C)OC(NC(CC)(CO)CO)=O | C10H21NO4
